US07060827B2
Diethyl 2-bromo-2-methylmalonate (1.0 g, 3.95 mmole) was added to a stirred suspension of potassium fluoride (0.57 g, 9.8 mmole) in dry DMF (5 mL). After stirring for 20 min at room temperature, 3-nitrophenol (0.55 g, 3.95 mmole) was added. The resulting mixture was stirred at 60° C. for 6 h, cooled to room temperature, diluted with water (30 mL) and extracted with ethyl acetate (3×200 mL). The organic layer was washed with aq. 1N NaOH (2×75 mL), dried over anhydrous Na2SO4, filtered and evaporated in vacuo to provide diethyl 2-methyl-2-(3-nitrophenoxy)malonate (0.89 g, 80%). 1H NMR (CDCl3): δ 7.92 (dd, 1H, J=2.3 and 8.2 Hz), 7.82 (t, 1H, J=2.3 Hz), 7.41 (t, 1H, J=8.2 Hz), 7.30 (dd, 1H, J=2.3 and 8.2 Hz), 4.28 (qt, 4H, J=7.0 Hz), 1.81 (s, 3H), 1.26 (t, 6H, J=7.0 Hz).

reactant | Diethyl 2-bromo-2-methylmalonate | 3.95 mmole, 1.0 g | BrC(C(=O)OCC)(C(=O)OCC)C | C8H13BrO4
reactant | potassium fluoride | 9.8 mmole, 0.57 g | [F-].[K+]
reactant | 3-nitrophenol | 3.95 mmole, 0.55 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | diethyl 2-methyl-2-(3-nitrophenoxy)malonate | 0.89 g, 80% | CC(C(=O)OCC)(C(=O)OCC)OC1=CC(=CC=C1)[N+](=O)[O-] | C14H17NO7
